US04420478
A mixture of 141 mg of chloromethyl acetate, 225 mg of sodium iodide and 4 ml of acetone was refluxed for 40 minutes and was cooled to obtain a suspension of iodomethyl acetate. Using the procedure of Step B of Example 6, 739 mg of 3-azidomethyl-7-[2-(2-tritylamino-4-thiazolyl)-2-(1-methyl-1-methoxy-ethoxyimino)-acetamido]-ceph-3-eme-4-carboxylic acid and the said suspension were reacted to obtain 698 mg of the syn isomer of acetoxymethyl 3-azidomethyl-7-[2-(2-tritylamino-4-thiazolyl)-2-(1-methyl-1-methoxyethoxyimino)-acetamido]-ceph-3-eme-4-carboxylate.

reactant | chloromethyl acetate | 141 mg | C(C)(=O)OCCl | C3H5ClO2
reactant | sodium iodide | 225 mg | [I-].[Na+]
reactant | iodomethyl acetate | C(C)(=O)OCI | C3H5IO2
reactant | 3-azidomethyl-7-[2-(2-tritylamino-4-thiazolyl)-2-(1-methyl-1-methoxy-ethoxyimino)-acetamido]-ceph-3-eme-4-carboxylic acid | 739 mg | N(=[N+]=[N-])CC=1CS[C@H]2N(C1C(=O)O)C(C2NC(C(=NOC(C)(OC)C)C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C36H34N8O6S2
solvent | acetone | 4 ml | CC(=O)C | C3H6O
product | acetoxymethyl 3-azidomethyl-7-[2-(2-tritylamino-4-thiazolyl)-2-(1-methyl-1-methoxyethoxyimino)-acetamido]-ceph-3-eme-4-carboxylate | N(=[N+]=[N-])CC=1CS[C@H]2N(C1C(=O)OCOC(C)=O)C(C2NC(C(=NOC(C)(OC)C)C=2N=C(SC2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O)=O | C39H38N8O8S2
